US08067407B2
Step a): 4-(6-Chloropyrimidin-4-yl)-1,4-oxazepane
A mixture of 3.0 g (20.1 mmol) of 4,6-dichloropyrimidine, 2.8 g (20.1 mmol) of 1,4-oxazepane hydrochloride and 6.4 g (60.4 mmol) of sodium carbonate in 45 ml of water is stirred under reflux for 16 h. After cooling to RT, the reaction mixture is extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution, dried over sodium sulphate and filtered. Under reduced pressure, the filtrate is concentrated to dryness. The product is obtained as an oil. Yield: 3.9 g (86% of theory)

reactant | 4,6-dichloropyrimidine | 20.1 mmol, 3.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 1,4-oxazepane hydrochloride | 20.1 mmol, 2.8 g | Cl.O1CCNCCC1
reactant | sodium carbonate | 60.4 mmol, 6.4 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 45 ml | O | H2O
product | 4-(6-Chloropyrimidin-4-yl)-1,4-oxazepane | ClC1=CC(=NC=N1)N1CCOCCC1 | C9H12ClN3O
